US06878700B1
2.3-Dichloro-4-(2-methoxyphenythio)-cinnamic acid
A mixture of 2,3-dichloro-4-(2-methoxyphenylthio)-benzaldehyde (2.03 g), 1.44 g malonic acid, 5 mL pyridine, and 0.100 g piperidine was heated to 115 degrees for 1.5 hours. The mixture was cooled, and ice and HCl were added. The resulting solid was: filtered, washed with water and dissolved in tetrahydrofuran. This solution was dried over sodium sulfate, the solvent removed and ether added to give 1.733 g of product, m.p. 187-188 C.

reactant | 2,3-dichloro-4-(2-methoxyphenylthio)-benzaldehyde | 2.03 g | ClC1=C(C=O)C=CC(=C1Cl)SC1=C(C=CC=C1)OC | C14H10Cl2O2S
reactant | malonic acid | 1.44 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.100 g | N1CCCCC1 | C5H11N
reactant | HCl | Cl | ClH
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2.3-Dichloro-4-(2-methoxyphenythio)-cinnamic acid | 1.733 g | ClC1=C(C=CC(=O)O)C=CC(=C1Cl)SC1=C(C=CC=C1)OC | C16H12Cl2O3S
